* FDGB Simulation (Fully Differential Gain Boosting)
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'



*********** Unit Under Test ********************
.include "fdgb.cir"
*********** Test-bench *************************


VDD VDD 0 DC 1.8
VSS VSS 0 DC 0
VINP VINP 0 DC 0.9 AC 0.5
VINN VINN 0 DC 0.9 AC -0.5

XDUT VSS VDD VINN VINP VOUTN VOUTP FDGB

CLP VOUTP 0 5e-12
CLN VOUTN 0 5e-12
RLP VOUTP 0 100e3
RLN VOUTN 0 100e3

.control
op
let vdd_current = abs(i(VDD))
let power_dc = vdd_current * 1.8
print power_dc

ac dec 100 1 10g
let vout_diff = v(VOUTN) - v(VOUTP)
let gain_db = db(vout_diff)
let dc_gain_db = gain_db[0]
print dc_gain_db

meas ac ugbw WHEN gain_db=0 CROSS=1
* my_testbench_template parse-friendly post-processed measures
let power_dc = op1.power_dc * 1e6
let ugbw = ugbw * 1e-6
let fom = dc_gain_db * ugbw / power_dc
print power_dc ugbw fom
quit
.endc
.end
