** NGSPICE Simulation bench
.GLOBAL
** Default values that can be used or modified in the corners
.PARAM 
+ VDD=3.3 
+ VCM=1.65 
+ CL=6p 
+ IB=100u
+ VDD_MAX=3.63
+ VDD_MIN=2.97
+ T_MAX=75
+ T_MIN=0

.TEMP 27.0
**
** Process, Voltage and Temperature settings for nominal.
** Pyhton script replaces this include to simulate other corners
**
.include 'nominal.corner'

**
** Design variables for the circuit being simulated
**
.include 'design_var.inc'

*********** Unit Under Test ********************
.include "folded_cascode_ota.cir"

*********** Test-bench *************************
x1 0 ib vdd vout vip vout folded_cascode_ota
c1 vout 0 {CL}
v11 vip 0 PULSE 1.15 2.15 1e-3 500e-12 500e-12 1e-3 2e-3
v10 vdd 0 DC={VDD}
i1  vdd ib DC={IB}
*********************************************************

*********** Analysis ***************************
.TEMP 25.0
.OPTION NOACCT=1 NOINIT=1
************************************************

.control
set units = degrees

TRAN 0.00001 0.01 0

meas TRAN trise_new TRIG V(vout) VAL=1.4  TD=0 RISE=4 TARG V(vout) VAL=1.9 TD=0 RISE=4
meas TRAN tfall_new TRIG V(vout) VAL=1.9 TD=0 FALL=4 TARG V(vout) VAL=1.4 TD=0 FALL=4

** SR V/us
let sr = '(0.000001*(0.5)/(trise_new))'
print sr


quit
.endc

.END
