* Folded-Cascode OTA with Sallen-Key BAND-PASS Filter
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
.options GMIN=1e-10 RELTOL=1e-4 ABSTOL=1e-12

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+W_casc_n={W_casc_n_base*20}
+W_casc_p={W_casc_p_base*20}
+W_fold={W_fold_base*4}
+W_in={W_in_base*4}
+W_mirr={W_mirr_base*20}
+W_sink={W_sink_base*20}



*********** Unit Under Test ********************
.include "folded_cascode_ota_bandp.cir"
*********** Test-bench *************************

VVDD  VDD_NODE   0   DC 1.8
VVSS  VSS_NODE   0   DC 0
VBN   VBN_NODE   0   DC 0.7
VBP   VBP_NODE   0   DC 1.0

VINP  VINP_NODE  0   DC 0.9 AC 0.5
VINN  VINN_NODE  0   DC 0.9 AC -0.5

VTAIL VDD_NODE VTAIL_NODE DC 0
ITAIL_SRC VTAIL_NODE 0 DC 1e-05

XOTA  VSS_NODE VDD_NODE VFINAL_OUT_NODE VINN_NODE VINP_NODE VBN_NODE VBP_NODE VTAIL_NODE FOLDED_CASCODE_OTA
CLOAD VFINAL_OUT_NODE VSS_NODE 1e-12

.op
.ac dec 200 1 1G

.control
set noaskquit
op
ac dec 200 1 1G

let pwr = abs(i(VVDD)[0]) * 1.8
echo "POWER_VALUE"
print pwr

let vout_ac = ac1.v(VFINAL_OUT_NODE)
let gain_db_vec = 20*log10(mag(vout_ac))
let freq_vec = frequency

* Find peak within reasonable range (10Hz to 100MHz)
* Use real() because AC vectors are complex-typed
let gain_peak = -1000
let fc_idx = 0
let idx = 0
while idx < length(gain_db_vec)
  if (real(freq_vec[idx]) > 10) & (real(freq_vec[idx]) < 1e8)
    if real(gain_db_vec[idx]) > real(gain_peak)
      let gain_peak = gain_db_vec[idx]
      let fc_idx = idx
    end
  end
  let idx = idx + 1
end
let fc_center = freq_vec[fc_idx]
echo "CENTER_FREQ_VALUE"
print fc_center
echo "PEAK_GAIN_VALUE"
print gain_peak

* Find -3dB points (use real() for complex-typed vectors)
let target = gain_peak - 3
let idx = 0
while idx < fc_idx
  if (real(gain_db_vec[idx]) < real(target)) & (real(gain_db_vec[idx+1]) >= real(target))
    let f_low = freq_vec[idx]
    break
  end
  let idx = idx + 1
end
echo "F_LOW_VALUE"
print f_low

let idx = fc_idx
while idx < length(gain_db_vec) - 1
  if (real(gain_db_vec[idx]) >= real(target)) & (real(gain_db_vec[idx+1]) < real(target))
    let f_high = freq_vec[idx]
    break
  end
  let idx = idx + 1
end
echo "F_HIGH_VALUE"
print f_high

let bandwidth = f_high - f_low
let q_actual = fc_center / bandwidth
echo "BANDWIDTH_VALUE"
print bandwidth
echo "Q_VALUE"
print q_actual

let idx = 0
while idx < length(gain_db_vec) - 1
  if (real(gain_db_vec[idx]) > 0) & (real(gain_db_vec[idx+1]) <= 0)
    let ugbw_hz = freq_vec[idx]
    break
  end
  let idx = idx + 1
end
echo "UGBW_VALUE"
print ugbw_hz

let bpf_center_freq_hz = real(fc_center) * 1e-6
let bpf_peak_gain_db = real(gain_peak)
let bpf_q_factor = real(q_actual)
print bpf_center_freq_hz bpf_peak_gain_db bpf_q_factor

quit
.endc
.end
