.subckt FOLDED_CASCODE_OTA VSS VDD VOUT VINN VINP VBN VBP VTAIL 
* PMOS differential input pair
XM1 N1 VINP VTAIL VDD sky130_fd_pr__pfet_01v8 w={W_in_base} l=0.15
XM2 N2 VINN VTAIL VDD sky130_fd_pr__pfet_01v8 w={W_in_base} l=0.15

* NMOS folding devices
XM3 N1 VBN NC1 VSS sky130_fd_pr__nfet_01v8 w={W_fold_base} l=0.15
XM4 N2 VBN NC2 VSS sky130_fd_pr__nfet_01v8 w={W_fold_base} l=0.15

* NMOS cascode (bottom)
XM5 NC1 VBN VSS VSS sky130_fd_pr__nfet_01v8 w={W_casc_n_base} l=0.15
XM6 NC2 VBN VSS VSS sky130_fd_pr__nfet_01v8 w={W_casc_n_base} l=0.15

* PMOS current mirror loads
XM7 N1 N1 NP1 VDD sky130_fd_pr__pfet_01v8 w={W_sink_base} l=0.15
XM8 N2 N1 NP2 VDD sky130_fd_pr__pfet_01v8 w={W_sink_base} l=0.15

* PMOS cascode (top)
XM9  NP1 VBP VDD VDD sky130_fd_pr__pfet_01v8 w={W_mirr_base} l=0.15
XM10 NP2 VBP VDD VDD sky130_fd_pr__pfet_01v8 w={W_casc_p_base} l=0.15

* Output connection
ROUT N2 VOTA_OUT 0.01

* Sallen-Key HIGH-PASS Filter (C and R swapped from LPF)
C1 VOTA_OUT VNODE1 {C1}
C2 VNODE1 VBUF_IN {C2}
R2 VBUF_IN VSS {R2}
R1 VNODE1 VOUT {R1}

* Unity-gain buffer
EBUFFER VOUT VSS VBUF_IN VSS 1.0
RBUF_OUT VOUT VFINAL_OUT 0.01

* Output load
CLOAD VFINAL_OUT VSS 1e-12
.ends FOLDED_CASCODE_OTA
