* Folded-Cascode OTA with Sallen-Key HIGH-PASS Filter
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
.options GMIN=1e-10 RELTOL=1e-4 ABSTOL=1e-12

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+W_casc_n={W_casc_n_base*20}
+W_casc_p={W_casc_p_base*20}
+W_fold={W_fold_base*4}
+W_in={W_in_base*4}
+W_mirr={W_mirr_base*20}
+W_sink={W_sink_base*20}



*********** Unit Under Test ********************
.include "folded_cascode_ota_hp.cir"
*********** Test-bench *************************

VVDD  VDD_NODE   0   DC 1.8
VVSS  VSS_NODE   0   DC 0
VBN   VBN_NODE   0   DC 0.7
VBP   VBP_NODE   0   DC 1.0

VINP  VINP_NODE  0   DC 0.9 AC 0.5
VINN  VINN_NODE  0   DC 0.9 AC -0.5

VTAIL VDD_NODE VTAIL_NODE DC 0
ITAIL_SRC VTAIL_NODE 0 DC 1e-05

XOTA  VSS_NODE VDD_NODE VFINAL_OUT_NODE VINN_NODE VINP_NODE VBN_NODE VBP_NODE VTAIL_NODE FOLDED_CASCODE_OTA
CLOAD VFINAL_OUT_NODE VSS_NODE 1e-12

.op
.ac dec 200 1 1G

.control
set noaskquit
op
ac dec 200 1 1G

let pwr = abs(i(VVDD)[0]) * 1.8
echo "POWER_VALUE"
print pwr

let vout_ac = ac1.v(VFINAL_OUT_NODE)
let gain_db_vec = 20*log10(mag(vout_ac))
let freq_vec = frequency

* Find peak gain across entire response (passband = peak, not at 1GHz)
let gain_peak = -1000
let peak_idx = 0
let idx = 0
while idx < length(gain_db_vec)
  if gain_db_vec[idx] > gain_peak
    let gain_peak = gain_db_vec[idx]
    let peak_idx = idx
  end
  let idx = idx + 1
end
echo "GAIN_VALUE"
print gain_peak

* Find -3dB cutoff on the LOW-frequency side of the peak
let target = gain_peak - 3
let idx = 0
while idx < peak_idx
  if (gain_db_vec[idx] < target) & (gain_db_vec[idx+1] >= target)
    let fc_3db = freq_vec[idx]
    break
  end
  let idx = idx + 1
end
echo "CUTOFF_VALUE"
print fc_3db

let idx = 0
while idx < length(gain_db_vec) - 1
  if (gain_db_vec[idx] > 0) & (gain_db_vec[idx+1] <= 0)
    let ugbw_hz = freq_vec[idx]
    break
  end
  let idx = idx + 1
end
echo "UGBW_VALUE"
print ugbw_hz

let fc_tenth = fc_3db / 10
let gain_tenth = gain_db_vec[0]
let idx = 0
while idx < length(freq_vec) - 1
  if (freq_vec[idx] <= fc_tenth) & (freq_vec[idx+1] > fc_tenth)
    let gain_tenth = gain_db_vec[idx]
    break
  end
  let idx = idx + 1
end
let stopband_att = gain_peak - gain_tenth
echo "STOPBAND_VALUE"
print stopband_att

let rolloff = (gain_db_vec[idx] - gain_tenth) / log10(fc_3db / fc_tenth)
echo "ROLLOFF_VALUE"
print rolloff

let hpf_cutoff_hz = real(fc_3db) * 1e-6
let hpf_passband_gain_db = real(gain_peak)
let hpf_stopband_atten_db = real(stopband_att)
print hpf_cutoff_hz hpf_passband_gain_db hpf_stopband_atten_db

quit
.endc
.end
