* Inverter Analysis from Extracted Netlist
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
.option scale=1e-6
.option warn=0

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+W_nmos={W_nmos_base*20}
+W_pmos={W_pmos_base*20}



*********** Unit Under Test ********************
.include "inverter.cir"
*********** Test-bench *************************


* Main circuit for DC sweep
Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
Vin IN 0 DC 0 PULSE(0 1.8 100p 100p 100p 1n 2n)
Xinv OUT IN VSS VDD SKY130_INV
Cout OUT 0 10e-15

* DC Sweep Analysis for Gain
.dc Vin 0 1.8 0.01

.control
run

* Calculate DC gain as maximum derivative dVout/dVin
let vout_deriv = deriv(v(OUT))
let gain_linear = abs(vout_deriv)
let gain_db = db(gain_linear)
meas dc dc_gain_db MAX gain_db


print dc_gain_db 

.endc

* Transient Analysis for Power and Delay
.control
destroy all
reset

dc Vin 0 1.8 0.01
let vout_deriv_pp = deriv(v(OUT))
let gain_linear_pp = abs(vout_deriv_pp)
let gain_db_pp = db(gain_linear_pp)
meas dc dc_gain_db_pp MAX gain_db_pp
let dc_gain_for_fom = vecmax(gain_db_pp)

tran 1p 4n

* Calculate power
let power = v(VDD) * (-i(Vdd))
let avg_power_calc = mean(power)

* Measure static current during stable low period (before first pulse)
meas tran static_current AVG i(Vdd) from=10p to=90p
let static_power_abs = abs(static_current) * 1.8

* Dynamic power
let dynamic_power = abs(avg_power_calc - static_power_abs)

* Measure propagation delays at 50% threshold (0.9V)
* Rising edge (LOW to HIGH) - first crossing
meas tran t_in_50_rise WHEN v(IN)=0.9 CROSS=1
meas tran t_out_50_rise WHEN v(OUT)=0.9 CROSS=1
let tplh = t_out_50_rise - t_in_50_rise

* Falling edge (HIGH to LOW) - second crossing
meas tran t_in_50_fall WHEN v(IN)=0.9 CROSS=2
meas tran t_out_50_fall WHEN v(OUT)=0.9 CROSS=2
let tphl = t_out_50_fall - t_in_50_fall
let average_delay = (tplh + tphl)/2

* my_testbench_template parse-friendly post-processed measures
let dynamic_power = dynamic_power * 1e6
let average_delay = average_delay * 1e12
let fom = dc1.dc_gain_for_fom / (average_delay * dynamic_power)

print dynamic_power average_delay fom

quit
.endc

.end
